US05610293
D. Synthesis of Gly-Ala-Gly-DAla-Gly.HCl
To Gly-Ala-Gly-DAla-Gly-OBzl prepared as in Example 34C (13.4 g, 25.7 mol) in glacial acetic acid (400 ml) was added concentrated HCl (100 ml) and the reaction mixture was stirred at room temperature for 24 h. The solution was concentrated in vacuo, dissolved in water (100 ml) and the resulting aqueous solution was washed with ether (2×50 ml) and concentrated again in vacuo. Drying at high vacuum afforded 9.70 g (100% yield) of the product as a white powder: 1H NMR (D2O) δ 1.38 (d, J=7.2 Hz, 3 H), 1.39 (d, J=7.2 Hz, 3 H), 3.84 (s, 2 H), 3.92 (s, 2 H), 3.96 (s, 2 H), 4.34 (m, 2 H).

reactant | Gly-Ala-Gly-DAla-Gly-OBzl | NCC(=O)N[C@@H](C)C(=O)NCC(=O)N[C@H](C)C(=O)NCC(=O)OCC1=CC=CC=C1 | C19H27N5O6
reactant | HCl | 100 ml | Cl | ClH
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | Gly-Ala-Gly-DAla-Gly.HCl | 9.70 g, 100% yield | NCC(=O)N[C@@H](C)C(=O)NCC(=O)N[C@H](C)C(=O)NCC(=O)O.Cl | InChI=1S/C12H21N5O6.ClH/c1-6(16-8(18)3-13)11(22)14-4-9(19)17-7(2)12(23)15-5-10(20)21;/h6-7H,3-5,13H2,1-2H3,(H,14,22)(H,15,23)(H,16,18)(H,17,19)(H,20,21);1H/t6-,7+;/m0./s1
